US08022062B2
N-(tert-Butoxycarbonyl)-4-(3,3-dimethyl-butyl)-benzylamine:
Dissolve 4-(3,3-dimethyl-but-1-ynyl)-benzonitrile (0.85 g, 4.64 mmol) in methanol (50 mL). Add 10% Pd/C (Degussa type E101, 0.68 g) and di-tert-butyl-dicarbonate (1.21 g, 5.57 mmol). Submit the mixture to hydrogenation under atmospheric pressure (balloon) for 6 h. Filter the catalyst through Celite® and concentrate the filtrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (9:1, 4:1) to provide the desired intermediate as an oil (1.25 g, 93%). MS (ES+) m/z: 314 (M+Na)+.

reactant | 4-(3,3-dimethyl-but-1-ynyl)-benzonitrile | 4.64 mmol, 0.85 g | CC(C#CC1=CC=C(C#N)C=C1)(C)C | C13H13N
reactant | di-tert-butyl-dicarbonate | 5.57 mmol, 1.21 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 0.68 g | [Pd] | Pd
product | N-(tert-Butoxycarbonyl)-4-(3,3-dimethyl-butyl)-benzylamine | 1.25 g, 93% | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)CCC(C)(C)C | C18H29NO2
